US07491735B2
Using general procedure A, (4-amino-phenoxy)-acetic acid tert-butyl ester (Renodon-Corniere, Axelle; et al., J. Med. Chem., 45, 4, 2002, 944-954) (4.84 g, 21.6 mmol) and 1-Boc-4-piperidone (3.4 g, 17.1 mmol) afforded 4-(4-tert-butoxycarbonylmethoxy-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester (6.6 g, 95%).

reactant | (4-amino-phenoxy)-acetic acid tert-butyl ester | 21.6 mmol, 4.84 g | C(C)(C)(C)OC(COC1=CC=C(C=C1)N)=O | C12H17NO3
reactant | 1-Boc-4-piperidone | 17.1 mmol, 3.4 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
product | 4-(4-tert-butoxycarbonylmethoxy-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester | 6.6 g, 95% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)OCC(=O)OC(C)(C)C | C22H34N2O5
